US03933836
N-[1-[2-(2-Bromophenyl)ethyl]-2(1H)-pyridinylidene]-N',N"-bis(1-methylethyl)guanidine
A solution of 1-[2-(2-bromophenyl)ethyl]-2-iminopyridine (2.77 g, 0.01 mole) and diisopropylcarbodiimide (1.05 g, 0.012 mole) in 30 ml of t-butanol is heated at reflux in a nitrogen atmosphere for 24 hours. The solution is cooled to room temperature and concentrated in vacuo to give a solid. This is recrystallized from 50 ml of hexane to yield a semi-solid, after cooling to -30°C. Recrystallization of this material from 70 ml of hexane yields 1.83 g of the title compound which sinters at 119°C and melts at 125°-128°C.

reactant | 1-[2-(2-bromophenyl)ethyl]-2-iminopyridine | 0.01 mole, 2.77 g | BrC1=C(C=CC=C1)CCN1C(C=CC=C1)=N | C13H13BrN2
reactant | diisopropylcarbodiimide | 0.012 mole, 1.05 g | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | t-butanol | 30 ml | C(C)(C)(C)O | C4H10O
product | N-[1-[2-(2-Bromophenyl)ethyl]-2(1H)-pyridinylidene]-N',N"-bis(1-methylethyl)guanidine | 1.83 g | BrC1=C(C=CC=C1)CCN1C(C=CC=C1)=NC(=NC(C)C)NC(C)C | C20H27BrN4
